Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been thinking about killing myself"
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Patient is a ___ with reported history of depression, OCD, and 
ADHD who was ___ campus police after reporting SI to an RA. 
Psychiatry consulted to perform a safety assessment.

The patient cites a long-standing history "sadness, emptiness" 
dating back to childhood, having been raised in a tumultuous 
household to a father with "anger issues" of whom "everyone is 
afraid".  She states that she has always had difficulty 
describing and coping with negative emotions and began 
self-harming at age ___ as she had found that it helped to "let 
it all out".  She states that her father has never made attempts 
to understand her mental illness describing how, when her sister 
revealed to her parents that she was self-harming, her father 
told her she was "stupid", and forced her mother and her sister 
to strip-search the patient in order to examine her for injury; 
while this event was traumatic for the patient, she becomes 
tearful in recounting how uncomfortable her mother and sister 
had been made by the experience.

Patient states that she has chronic thoughts of self-harm and 
endorses a history of multiple overdoses on medications after 
researching toxic doses on the internet for which she had 
occasionally sought emergent medical care in the past.  She 
indicates that a part of her may have wanted psychiatric 
hospitalization, feeling overwhelmed and hopeless, her family 
failing to sufficiently support her in her distress, but 
acknowledges how she then inevitably felt she had to "lie" about 
her motivations to her providers afraid that she would make her 
father angry.  She states that she was enrolled in the ___ 
___ for 7 days in ___ and had wanted to continue, wanted to 
consider inpatient hospitalization, though the thought of 
missing school/work caused her so much anxiety that she chose 
instead to disengage from treatment.  She notes that she had 
felt fairly well-controlled on Cymbalta which was doubled by the 
PHP provider prior to her discharge after which she states she 
felt increasingly anxious.  Her outpatient psychiatrist in 
___ worked with her to slowly taper the dose over time 
with the patient, to her surprise, noticing a worsening in 
depressive symptoms, including low mood, impaired concentration 
and motivation, anhedonia, poor sleep, and poor appetite.  She 
notes that 2 weeks into her job (6 mo work/study began ___ 
she was informed by supervisors that her performance appeared 
impaired, improving with the addition of Adderall (prescribed 
___.  

Though her symptoms seemed to have worsened insidiously she 
believed the worsened acutely in the following days, possibly 
concurrent with the tapering of Cymbalta to 90 mg and addition 
of stimulant medication.  She states that she has always 
suffered from nightmares but has this week been dreaming of her 
suicide, describing how she dreamed she had thrown herself from 
the window of her ___ floor dorm, explaining that she later 
experienced an episode of dissociation during which she 
unknowingly walked into a floor-to-ceiling window in her hall.  
She decided to approach her RA after experiencing an episode of 
dissociation this afternoon in which she cut her leg with an 
aggression atypical
for her, slashing at her thigh diagonally causing long, 
superficial lacerations (showed this writer well-healed scars 
which had been carefully inflicted vertically and horizontally). 
Afraid that she might harm herself deliberately or 
inadvertently, she requested psychiatric evaluation with hope 
for inpatient
admission.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: Denies, but did attend ___ PHP x1 week in
___
Current treaters and treatment: Has psychiatrist Dr. ___, therapist ___ in ___- has been
skyping with ___ every other week
Medication and ECT trials: 
Self-injury: Numerous SA via OD that has never required medical
or psychiatric admission- notes that she "lies" to providers and
has in the past presented to the ED for OD but denied SI; 
cutting
since early adolescence, did not cut for ___ years, resumed and 
has
been cutting every month or so for the last ___ years triggered by
an individual who was actively self-harming and sending her
pictures of his injuries
Harm to others: Denies
Access to weapons: Denies

PAST MEDICAL HISTORY:
Denies
 
Social History:
___
Family History:
Mother with ___ and PTSD, addiction in father's side of the 
family, as well as father also admitting to OCD, depressive 
symptoms. Older sister studying at MIT with "same issues", 
similarly had tumultuous relationship with parents and has cut 
off contact until recently, when she sent an email threatening 
suicide if they did not agree to getting her plastic surgery. 
Sister was briefly hospitalized but then discharged.
 
Physical Exam:
ADMISSION EXAM: 

VS:  T 98.0 | BP 117/78 | HR 116 | RR 18 | SpO2 99% 

Neurological:  
-station and gait: WNL
-tone and strength: Moves all four extremities equally against 
gravity
-cranial nerves: Face appears symmetric
-abnormal movements: None observed
-frontal release: None noted

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention (digit span, MOYB): Attends to interview
-Orientation: Oriented to person, place, time, and situation
-Memory:  Intact to recent and remote events
-Fund of knowledge:  Average
-Speech: Normal volume, rate, and prosody
-Language: Fluent ___, normal comprehension
 
Mental Status:
-Appearance: Casually groomed thin young woman with hair pulled 
back wearing hospital gown
-Behavior: Calm, cooperative, resting comfortably in hospital 
gurney, well-related, fair eye contact, no PMR/PMA
-Mood and Affect: "Always low" / Dysphoric, mood-congruent, 
tearful, but occasionally smiles in an embarrassed sort of way 
when making self-deprecating comments
-Thought process / associations: Linear, coherent / no LOA
-Thought Content: SI with plan to OD or cut her wrists, denies 
HI/AVH
-Judgment and Insight: Limited/limited

DISCHARGE EXAM:

VS: temp 98.4 BP 113/77 HR 104 RR 16 98% on RA

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
-Coordination: Normal on finger to nose test, no intention 
tremor noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: long-term grossly intact
-Fund of knowledge: Consistent with education
-Calculations: Not tested
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
-Appearance: young thin woman who appears of stated age, well 
groomed, wearing own clothing, in no apparent distress
-Behavior: sitting up in chair, good eye contact, receptive body 
language
-Attitude: cooperative, engaged, pleasant, laughs appropriately, 
no angry outburts
-Mood: "good", stable
-Affect: full, reactive
-Speech: Normal volume, rate, and tone
-Thought process: Coherent, linear, goal-oriented
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Fair
-Judgment: Fair

 
Pertinent Results:
LABORATORY EVALUATION:

___ 07:15PM BLOOD WBC-5.2 RBC-4.38 Hgb-13.7 Hct-41.0 MCV-94 
MCH-31.3 MCHC-33.4 RDW-12.5 RDWSD-42.7 Plt ___
___ 07:15PM BLOOD Neuts-49.1 ___ Monos-8.2 Eos-5.7 
Baso-0.4 Im ___ AbsNeut-2.56 AbsLymp-1.90 AbsMono-0.43 
AbsEos-0.30 AbsBaso-0.02
___ 07:15PM BLOOD Glucose-88 UreaN-11 Creat-0.7 Na-140 
K-4.3 Cl-101 HCO3-26 AnGap-13
___ 07:15PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 10:00PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 10:00PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.0 Leuks-NEG
___ 10:00PM URINE RBC-4* WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 10:00PM URINE UCG-NEGATIVE
___ 10:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG

___ 01:05PM BLOOD %HbA1c-4.6 eAG-85
___ 01:05PM BLOOD Triglyc-150* HDL-37* CHOL/HD-3.7 
LDLcal___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission.  She was placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC: major depressive disorder
#) The patient was admitted for suicidal ideation in the 
background of recent nightmares involving suicide attempts, 
leading to an episode of dissociation and self-injury. On 
interview, the patient described a history of mood and somatic 
symptoms dating for years, which was acutely worsened over the 
past few months on a background of not enjoying her current 
school situation, a historically tumultuous relationship with 
her family members, poor sleep and increased anxiety, and 
finally seasonal weather changes. In addition, recent medication 
changes performed as an outpatient including rapidly increasing 
duloxetine from 60mg to 120mg, as well as adding trazodone and 
Adderall, were felt to be contributing to activating symptoms 
including racing thoughts, impulsivity, poor sleep and 
nightmares, and anxiety. The differential for her presentation 
was multifactorial included an acute exacerbation of major 
depression, effect of medications, borderline personality 
traits, and posttraumatic stress disorder.

In terms of interventions, the patient's Trazodone and Adderall 
were discontinued. Her duloxetine was titrated back down to 60mg 
daily. She was started on lamotrigine for mood stabilization, 
which she tolerated well without side effects. For insomnia, she 
was trialed on Ativan, ramelteon, and hydroxyzine, however she 
did not find any benefit in anxiety or sleep to any of these 
agents. Finally, her sleep did improve to a trial of Seroquel 
25mg at night, which was also started for benefit of mood 
stabilization. She was started on prazosin for nightmares. Her 
response to these changes as well as to individualized therapy 
sessions while inpatient was good, and by discharge, she denied 
active suicidal intent and was able to voice desire to seek help 
and future-oriented thought process, as well as a plan to notify 
her boyfriend and healthcare providers if she were to have 
suicidal ideation. Her insight and judgment were notably 
improved. For post-discharge planning, she was referred to 
partial hospital program in ___, and will take time off 
from school/work before returning. She was also referred to 
behavioral health services including psychiatry in ___, for 
continued medication titration and therapy, such as dialectic 
behavioral therapy, for which she will be a good candidate.

3. SUBSTANCE USE DISORDERS:
#) No history of substance use.

4. MEDICAL
#) No acute or chronic medical problems.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient initially was noted to be isolated and did not interact 
with peers, but throughout her admission, she was observed to be 
more participatory in attending these groups that focused on 
teaching various coping skills. The patient was noted to offer 
thoughtful comments, work on ___ and ___ projects, and 
interact sociably with her peers including working together on 
problem solving tasks.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Team held a family meeting with the patient and her parents to 
discuss her care. Parents had the opportunity to voice their 
concerns about the patient and also to communicate their support 
for the patient including financial and emotional support should 
she decide not to continue to pursue her current course of 
study. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting quetiapine, including metabolic syndrome, TD, EPS, 
orthostatic hypotension, effects on the heart, and lamotrigine - 
rash, and risks and benefits of possible alternatives, including 
not taking the medications, with this patient.  We discussed the 
patient's right to decide whether to take these medications as 
well as the importance of the patient's actively participating 
in the treatment and discussing any  questions about medications 
with the treatment team, and the patient's questions were 
answered. The patient appeared able to understand and consented 
to take the above mentioned medications.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself due to recent history of 
self-injurious behavior and worsening emotional dysregulation. 
Her static risk factors include chronic mental illness, history 
of abuse, concurrent personality disorder. Her modifiable risk 
factors were suicidal ideation, impulsivity, hopelessness, 
social withdrawal, limited social supports, limited coping 
skills, insomnia, lack of purpose, and polarized thinking. These 
were addressed by optimizing her medication regimen to improve 
insomnia and impulsivity as described above, as well as group 
and individual therapy sessions to educate coping strategies and 
thinking. Her protective factors include help-seeking nature, 
sense of responsibility, future-oriented thought process, and no 
history of substance use.

Our prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 90 mg PO DAILY 
2. TraZODone 100 mg PO QHS 
3. Amphetamine-Dextroamphetamine 15 mg PO DAILY 
4. Vienva (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 

 
Discharge Medications:
1.  LamoTRIgine 50 mg PO QHS 
RX *lamotrigine 25 mg 2 tablet(s) by mouth nightly Disp #*60 
Tablet Refills:*0 
2.  Prazosin 2 mg PO QHS 
RX *prazosin 2 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*0 
3.  QUEtiapine Fumarate 25 mg PO QHS 
RX *quetiapine 25 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
4.  DULoxetine 60 mg PO DAILY 
RX *duloxetine 60 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
5.  Vienva (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depression, acute, recurrent, without psychotic features
Posttraumatic stress disorder
Seasonal affective disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depression, self-injury, 
suicidal thoughts, and poor sleep.
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___